US07691869B2
To a solution of the title D compound of Example 1, 2-{5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl}ethyl methanesulfonate (0.06 g, 0.165 mmol) in dry DMF (5 mL), the title A compound, 1-(3-(2,4-difluorophenyl)propyl)piperazine dihydrochloride (0.33 mmol) and 0.06 mL of DIEA are added, and the solution is stirred at 100° C. for 5 h. The reaction mixture is cooled to RT, and the solvent is removed under reduced pressure. The crude product is purified by flash chromatography using DCM/MeOH/NH4OH-95/5.0/0.5 as eluent to give 7-(2-(4-(3-(2,4-difluorophenyl)propyl)piperazin-1-yl)ethyl)-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5-amine: LC/MS (M+1=507.2). 1H NMR (DMSO-d6, 400 MHz) δ 1.66 (quintuplet, 2H, J=7.2 Hz), 2.24 (t, 2H, J=7.2 Hz), 2.32 (m, 4H), 2.45 (m, 4H), 2.58 (t, 2H, J=7.2 Hz), 2.67 (t, 2H, J=6.4 Hz), 4.22 (t, 2H, J=6.4 Hz), 6.58 (d, 1H, J=3.2 Hz), 6.71 (m, 1H), 6.99 (dt, 1H, J=8.4 Hz and 1.6 Hz), 7.14 (m, 2H), 7.18 (d, 1H, J=3.2 Hz), 7.32 (m, 1H), 7.48 (br s, 2H, NH2), 7.91 (s, 1H). Anal. calculated for (C26H28F2N8O): C, 61.65; H, 5.57; F, 7.50; N, 22.12; 0, 3.16. Found C, 61.38: H, 5.66; N, 22.07.

reactant | 2-{5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl}ethyl methanesulfonate | 0.165 mmol, 0.06 g | CS(=O)(=O)OCCN1C=CC=2C=3N(C(=NC21)N)N=C(N3)C=3OC=CC3 | C14H14N6O4S
reactant | 1-(3-(2,4-difluorophenyl)propyl)piperazine dihydrochloride | 0.33 mmol | Cl.Cl.FC1=C(C=CC(=C1)F)CCCN1CCNCC1
reactant | DIEA | 0.06 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-(2-(4-(3-(2,4-difluorophenyl)propyl)piperazin-1-yl)ethyl)-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5-amine | FC1=C(C=CC(=C1)F)CCCN1CCN(CC1)CCN1C=CC=2C=3N(C(=NC21)N)N=C(N3)C=3OC=CC3 | C26H28F2N8O
